Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
C3/4 HNP with myelopathy.
 
Major Surgical or Invasive Procedure:
ACDF at C ___ 
 
History of Present Illness:
Mr. ___ is a very pleasant ___ gentleman,
former college ___, who just retired.  His chief complaint 
has
been a few weeks history of tingling of both hands as well as
tingling of both feet, numbness as well.  Also, some pain in the
mid cervical spine, posterior.  He has tried activity 
modification,and
conservative management over the last six weeks without
any improvement. In fact, he feels that the numbness and
tingling is getting worse over the last few weeks and that led 
to
an MRI. The MRI was reviewed and the patient presented for a 
neurosurgical
evaluation for C3/4 HNP with myelopathy.

 
Past Medical History:
HTN
 
Social History:
___
Family History:
N/A
 
Physical Exam:
on the day of admission ___:
alert and oriented to person/place/time
strength 
upper/ lower extremities ___
sensation intact
no hoffmans
no clonus

on the day of discharge:
AOx3, follows complex commands, speech clear and fluent. Moves 
all extremities with full strength. PERRL. EOM intact. Bilateral 
Intrinsic intact. face symmetrical, tongue midline. Patient 
states he has minor paresthesias to his right hand which has 
improved since surgery. 
 
Pertinent Results:
 C-SPINE NON-TRAUMA ___ VIEWS Study Date of ___ 9:21 AM 
IMPRESSION:  
There has been anterior fusion from C3-C4 with intervening bone 
graft 
material. No hardware related complications are seen. There is 
mild pre 
vertebral soft tissue swelling consistent with the recent 
surgery. There are degenerative changes of the cervical spine 
with loss of intervertebral disc height worse at C5-C6 and 
C6-C7. 
  

 
Brief Hospital Course:
This is a ___ year old male who presented electively today for an 
ACDF C ___.  The patient tolerated the procedure well and was 
recovered in the PACU.  The patient's diet was advanced. In the 
PACU the patient was tachycardic with a heart rate of 120. An 
EKG was done and showed ST changes in leads 3 and AVF. The 
patient was given a 250 cc IV bolus,Lopressor 5 mg  and valium 
as patient complained of anxiety. A repeat EKG was done and 
continued to show EKG ST changes. The patient had a troponin 
level drawn that was negative. He was admitted to the ICU 
overnight in the ICU overnight. Cardiology was consulted.

On post operative day one the patient remained neurologically 
intact. The patient had 3 negative troponins and cardiology was 
consulted prior to discharge. Cardiology felt that this 
tachycardia was likely to anxiety and was exacerbated by 
dehydration. After review of EKG it was felt that the ST changes 
were borderline with no clinical significance. His post 
operative dressing was clean dry and intact. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyclobenzaprine 10 mg PO HS 
2. Fluticasone Propionate NASAL 1 SPRY NU BID 
3. Lisinopril 15 mg PO DAILY 
4. Cialis (tadalafil) 15 mg oral qod as directed 
5. Acetaminophen 500 mg PO Q12H:PRN shoulder pain 
6. Aspirin 81 mg PO DAILY 
7. Vitamin D 400 UNIT PO DAILY 

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN fever or pain 
2. Cyclobenzaprine 10 mg PO HS 
3. Fluticasone Propionate NASAL 1 SPRY NU BID 
4. Lisinopril 15 mg PO DAILY 
5. Diazepam 2 mg PO Q8H:PRN muscle spasm/ anxiety 
RX *diazepam 2 mg 1 tab by mouth every eight (8) hours Disp #*30 
Tablet Refills:*0
6. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0
7. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*50 Tablet Refills:*0
8. Senna 17.2 mg PO QHS 
9. Aspirin 81 mg PO DAILY 
___ resume on ___ 
10. Cialis (tadalafil) 15 mg oral qod as directed 
11. Vitamin D 400 UNIT PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Herniated disc at C ___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions

___

Surgery
•Your dressing may come off on the second day after surgery. 
•Your incision is closed with dissolvable sutures underneath 
the skin and steri strips. You do not need suture removal. Do 
not remove your steri strips, let them fall off.
•Please keep your incision dry for 72 hours after surgery.
•Please avoid swimming for two weeks.
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 
•Do NOT smoke. Smoking can affect your healing and fusion.

Medications
•Please do NOT take any blood thinning medication ( Ibuprofen, 
Plavix, Coumadin) until cleared by the neurosurgeon. 
•You may resume your baby Aspirin 81 mg daily on post operative 
day 3 on ___.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 
•You may take Oxycodone and Valium for more severe pain as 
prescribed. Do not drive or drink alcohol while taking these 
medications. 
 
Followup Instructions:
___